US07060827B2
In like manner to the preparation of 2-chloro-N-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine, 2,4-dichloro-5-fluoropyrimidine was reacted with 8-amino-4H-imidazo[2,1-c][1,4]-benzoxazine to produce 2-chloro-5-fluoro-N-[4H-imidazo[2,1-c][1,4]-benzoxazin-8-yl]-4-pyrimidineamine. 1H NMR (DMSO-d6): 1H NMR (DMSO-d6): δ 10.08 (s, 1H), 8.31 (s, 1H), 7.91 (d, 1H, J=2.3 Hz), 7.74 (d, 1H, J=1.2 Hz), 7.37 (dd, 1H, J=2.3 and 8.8 Hz), 7.16 (d, 1H, J=8.8 Hz), 7.14 (d, 1H, J=1.2 Hz), 5.29 (s, 2H). LCMS: ret. time: 18.74 min.; purity: 99%; MS (m/e): 318 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 8-amino-4H-imidazo[2,1-c][1,4]-benzoxazine | NC=1C=CC2=C(N3C(CO2)=NC=C3)C1 | C10H9N3O
product | 2-chloro-5-fluoro-N-[4H-imidazo[2,1-c][1,4]-benzoxazin-8-yl]-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC=1C=CC2=C(N3C(CO2)=NC=C3)C1)F | C14H9ClFN5O
